US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(3-Acetylamino-pyrrolidin-1-yl)-ethyl]-amide
To a solution of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (252 mg, 0.5 mmol) in DMF (10 mL) was added HOBt (101 mg, 1.5 eq.), EDAC.HCl (144 mg, 1.5 eq.) and TEA (152 mg, 3 eq.). After stirring at rf for 30 mins, to the mixture was added N-[1-(2-amino-ethyl)-pyrrolidin-3-yl]-acetamide (128 mg, 1.5 eq.). After stirring at 30° C. for 72 hours, the reaction was concentrated and the residue was purified on a silica gel column to give 213 mg (65%) of the titled compound as an orange solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.5 mmol, 252 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 101 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 144 mg, 1.5 eq. | CCN=C=NCCCN(C)C.Cl
reactant | N-[1-(2-amino-ethyl)-pyrrolidin-3-yl]-acetamide | 128 mg, 1.5 eq. | NCCN1CC(CC1)NC(C)=O | C8H17N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(3-Acetylamino-pyrrolidin-1-yl)-ethyl]-amide | 213 mg, 65% | C(C)(=O)NC1CN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C31H33Cl2N5O5S
